US06703425B2
Preparation of {2-[4-(2-Aminoethyl)phenyl]propyl}[(methylethyl)sulfonyl]amine
Scheme Va, step B: N-{2-[4-(1-Methyl-2-{[(methylethyl)sulfonyl]amino}ethyl)phenyl]ethyl}(phenylmethoxy)carboxamide (0.6 g, 1.44 mmol) and 10% palladium on carbon (0.5 g, 35 mole %) were combined and hydrogenation was carried out in a manner analogous to the procedure described in example 6 to provide the intermediate title compound, {2-[4-(2-aminoethyl)phenyl]propyl}[(methylethyl)sulfonyl]amine, (0.15 g, 37%) as colorless oil. Electron spray M.S. 285 (M*+H).

reactant | N-{2-[4-(1-Methyl-2-{[(methylethyl)sulfonyl]amino}ethyl)phenyl]ethyl}(phenylmethoxy)carboxamide | 1.44 mmol, 0.6 g | CC(CNS(=O)(=O)C(C)C)C1=CC=C(C=C1)CCNC(=O)OCC1=CC=CC=C1 | C22H30N2O4S
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | {2-[4-(2-aminoethyl)phenyl]propyl}[(methylethyl)sulfonyl]amine | 0.15 g, 37% | NCCC1=CC=C(C=C1)C(CNS(=O)(=O)C(C)C)C | C14H24N2O2S
